US09278968B2
A solution of 106 mg of tert-butyl [(1R)-2-hydroxy-1-(2-methyl-2H-tetrazol-5-yl)ethyl]carbamate in 3 ml of methanol was added to 1.5 ml of a 4 M hydrogen chloride/1,4-dioxane solution, followed by stirring at room temperature for 2 hours. The reaction mixture was concentrated under reduced pressure to obtain 78 mg of (2R)-2-amino-2-(2-methyl-2H-tetrazol-5-yl)ethanol hydrochloride.

reactant | tert-butyl [(1R)-2-hydroxy-1-(2-methyl-2H-tetrazol-5-yl)ethyl]carbamate | 106 mg | OC[C@@H](C=1N=NN(N1)C)NC(OC(C)(C)C)=O | C9H17N5O3
reactant | hydrogen chloride 1,4-dioxane | 4 M | Cl.O1CCOCC1
solvent | methanol | 3 ml | CO | CH4O
product | (2R)-2-amino-2-(2-methyl-2H-tetrazol-5-yl)ethanol hydrochloride | 78 mg | Cl.N[C@@H](CO)C=1N=NN(N1)C | InChI=1S/C4H9N5O.ClH/c1-9-7-4(6-8-9)3(5)2-10;/h3,10H,2,5H2,1H3;1H/t3-;/m0./s1
